US05856274
A mixture of 1-[2,3-bis(methylsulphenyl)-4-chlorophenyl]-3-cyclopropylpropan-1,3-dione (3.45 g) and acetic anhydride (3.37 g) in acetic acid was stirred and heated at reflux for 3 hours. It was cooled and evaporated to dryness. The residue was dissolved in toluene and re-evaporated to give 1-[2,3-bis(methylsulphenyl)4-chlorophenyl]-3-cyclopropyl-2-ethoxymethylenepropan-1,3-dione (4.1g) as a brown oil which was not further purified.

reactant | 1-[2,3-bis(methylsulphenyl)-4-chlorophenyl]-3-cyclopropylpropan-1,3-dione | 3.45 g | CSC1=C(C=CC(=C1SC)Cl)C(CC(=O)C1CC1)=O | C14H15ClO2S2
reactant | acetic anhydride | 3.37 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-[2,3-bis(methylsulphenyl)4-chlorophenyl]-3-cyclopropyl-2-ethoxymethylenepropan-1,3-dione | 4.1g | CSC1=C(C=CC(=C1SC)Cl)C(C(C(=O)C1CC1)=COCC)=O | C17H19ClO3S2
